US09388189B2
(S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-2-hydroxypyridin-3-yl)-4-methoxybenzenesulfonamide
(S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-2-methoxypyridin-3-yl)-4-methoxybenzenesulfonamide (82 mg, 0.13 mmol) was treated with a solution of boron tribromide (1M in dichloromethane, 190 μl, 0.19 mmol) according to the method described in Example 23. The residue was purified using SP1® Purification System (0% to 100%, hexane-ethyl acetate) to give 37 mg (46% yield) of the title compound as a solid.

reactant | (S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-2-methoxypyridin-3-yl)-4-methoxybenzenesulfonamide | 0.13 mmol, 82 mg | NC1=NC=NC(=C1C=1C=C(C(=NC1)OC)NS(=O)(=O)C1=CC=C(C=C1)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C32H31N9O5S
reactant | boron tribromide | 0.19 mmol, 1M, 190 μl | B(Br)(Br)Br | BBr3
product | (S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-2-hydroxypyridin-3-yl)-4-methoxybenzenesulfonamide | 37 mg, 46% yield | NC1=NC=NC(=C1C=1C=C(C(=NC1)O)NS(=O)(=O)C1=CC=C(C=C1)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C31H29N9O5S
